US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((4-hydroxy-5-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
A mixture of ethyl 5-methoxy-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate (44 mg, 132 μmol), tert-butyl 2-aminoacetate hydrochloride (33 mg, 199 μmol) in 2 mL dioxane was treated with N-ethyl-N-isopropylpropan-2-amine (51 mg, 397 μmol). The mixture was warmed to 86° C. and stirred for 14 hours, M+1=418. The mixture was then cooled to room temperature and concentrated in vacuo. The crude product was purified by column chromatography eluting with 10-30% EtOAc/hexane to give 35 mg of the title compound as a yellow oil. MS (m/z) 418 (M+H)+.

reactant | ethyl 5-methoxy-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 132 μmol, 44 mg | COC1=C2C(=C(C(C3(CCOCC3)C2=CC=C1)=O)C(=O)OCC)O | C18H20O6
reactant | tert-butyl 2-aminoacetate hydrochloride | 199 μmol, 33 mg | Cl.NCC(=O)OC(C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 397 μmol, 51 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((4-hydroxy-5-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 35 mg | OC1=C(C(C2(CCOCC2)C2=CC=CC(=C12)OC)=O)C(=O)NCC(=O)OC(C)(C)C | C22H27NO7
